US08183239B2
Step C: 2-{4-[4-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-2-fluoro-phenyl]-piperazin-1-yl}-N,N-diethyl-2-phenyl-acetamide.
A solution of N,N-diethyl-2-[4-(2-fluoro-4-hydroxymethyl-phenyl)-piperazin-1-yl]-2-phenyl-acetamide (0.14 g, 0.362 mmol) in THF (3 mL) was added triphenylphosphine (96.5 mg), phthalimide (76.9 mg), and diethyl azodicarboxylate (50 μL), and the mixture stirred at rt. After 16 h, the solvent was removed and the residue purified on SiO2EtOAc/hexanes) to provide 115.5 mg of the title compound. MS (ESI): mass calcd. for C31H33FN4O3, 528.62. m/z found, 529.6 [M+H]+.

reactant | N,N-diethyl-2-[4-(2-fluoro-4-hydroxymethyl-phenyl)-piperazin-1-yl]-2-phenyl-acetamide | 0.362 mmol, 0.14 g | C(C)N(C(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)CO)F)=O)CC | C23H30FN3O2
reactant | triphenylphosphine | 96.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 76.9 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 50 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-{4-[4-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-2-fluoro-phenyl]-piperazin-1-yl}-N,N-diethyl-2-phenyl-acetamide | 115.5 mg | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C31H33FN4O3
